US04110455
1-keto-6-(o-chlorophenyl)-8-dimethylamino-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine
A mixture of 19 grams of 1-keto-6-(o-chlorophenyl)-8-chloro-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine, 80 grams of dimethylamine and 500 ml. of ethanol were heated in the autoclave for 8 hours at 100°-110° C. The solution was evaporated to dryness, the residue stirred with water, filtered off with suction and washed several times with water. Then it was recrystallized from methanol. Yield 8 grams; M.P. 244°-246° C.

reactant | 1-keto-6-(o-chlorophenyl)-8-chloro-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine | 19 grams | O=C1NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)N=C(C=C1)Cl | C15H9Cl2N5O
reactant | dimethylamine | 80 grams | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 1-keto-6-(o-chlorophenyl)-8-dimethylamino-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine | O=C1NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)N=C(C=C1)N(C)C | C17H15ClN6O
